US06908913B2
A solution of 2.50 g of 7-iodoimidazo[5,1-b]thiazole in 50 ml of dry THF was cooled in ice, and 11.3 ml of a 0.93 M methylmagnesium bromide/THF solution was added to the cooled solution under an argon atmosphere. The mixture was stirred at that temperature for 20 min. Pyridine-3-aldehyde (1.04 ml) was then added thereto, and the mixture was stirred at that temperature for 40 min and then at room temperature for 4 hr. Water was added to the reaction solution, and the mixture was extracted five times with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and was then concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to give 1.925 g of 7-[(pyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | methylmagnesium bromide THF | 0.93 M | C[Mg]Br.C1CCOC1
reactant | Pyridine-3-aldehyde | 1.04 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | Water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-[(pyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole | 1.925 g | N1=CC(=CC=C1)C(C=1N=CN2C1SC=C2)O | C11H9N3OS
